US07262212B2
2,4-Dinitro-1H-imidazole (0.518 g, 3.28 mmol) and 4-chlorobenzyl (2-methyloxiran-2-ylmethyl)carbamate (2.097 g, 8.20 mmol) and sodium acetate (0.538 g, 6.56 mmol) in ethanol (6 ml) was stirred under reflux for 1 hour. To the solution, water was added and the precipitates were filtered off. The resulting solid was treated with diethyl ether to afford 4-chlorobenzyl (2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)carbamate (0.197 g, yield 16%) as a colorless solid.

reactant | 2,4-Dinitro-1H-imidazole | 3.28 mmol, 0.518 g | [N+](=O)([O-])C=1NC=C(N1)[N+](=O)[O-] | C3H2N4O4
reactant | 4-chlorobenzyl (2-methyloxiran-2-ylmethyl)carbamate | 8.20 mmol, 2.097 g | CC1(OC1)CNC(OCC1=CC=C(C=C1)Cl)=O | C12H14ClNO3
reactant | sodium acetate | 6.56 mmol, 0.538 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-chlorobenzyl (2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)carbamate | 0.197 g, yield 16% | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CNC(OCC2=CC=C(C=C2)Cl)=O | C15H15ClN4O5
